US08623889B2
To a mixture of N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide (62.4 mg, 0.167 mmol), (R)-(+)-tetrahydro-2-furoic acid (21.0 uL, 0.217 mmol), (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (118.4 mg, 0.2284 mmol), and 4-dimethylaminopyridine (4.083 mg, 0.03342 mmol) was added N,N-dimethylformamide (2.0 mL, 26 mmol) and N,N-diisopropylethylamine (88 uL, 0.50 mmol). The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was then diluted with ethyl acetate and washed twice with water and once with brine. The organic layer was dried over MgSO4, and filtered through a plug of silica gel, rinsing with ethyl acetate. The filtrate was concentrated and then purified via reverse phase HPLC and lyophilized to yield 45.0 mg (65%) of (R)—N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)tetrahydrofuran-2-carboxamide. LCMS (ESI): RT (min)=4.594, M+H=416.2, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.89 (s, 1H), 9.64 (s, 1H), 9.18 (s, 1H), 8.49 (s, 1H), 7.99 (s, 1H), 7.91 (d, J=8.6 Hz, 1H), 7.68 (dd, J=11.6, 1.9 Hz, 2H), 7.64 (dd, J=8.3, 2.1 Hz, 1H), 7.27 (d, J=8.3 Hz, 1H), 4.38 (dd, J=8.1, 5.6 Hz, 1H), 3.98 (dd, J=14.5, 6.8 Hz, 1H), 3.82 (dd, J=14.5, 6.9 Hz, 1H), 2.23 (s, 3H), 2.22-2.14 (m, 1H), 2.13-2.03 (m, 1H), 1.98 (td, J=12.6, 6.6 Hz, 1H), 1.86 (p, J=6.9 Hz, 2H), 0.95-0.77 (m, 4H).

reactant | N-(7-(5-amino-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.167 mmol, 62.4 mg | NC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H19N3O
reactant | (R)-(+)-tetrahydro-2-furoic acid | 0.217 mmol, 21.0 uL | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.2284 mmol, 118.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-dimethylformamide | 26 mmol, 2.0 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.50 mmol, 88 uL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-dimethylaminopyridine | 0.03342 mmol, 4.083 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)—N-(3-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-4-methylphenyl)tetrahydrofuran-2-carboxamide | 45.0 mg, 65% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=C(C=CC1C)NC(=O)[C@@H]1OCCC1 | C25H25N3O3
